US03992535
4-Hydroxy-N-(2-methoxyphenyl)-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 2-methyoxy-aniline. Yield: 31% of theory; m.p. 198°-200° C (from ethylene chloride/petroleum ether).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-methyoxy-aniline | COC1=C(N)C=CC=C1 | C7H9NO
product | 4-Hydroxy-N-(2-methoxyphenyl)-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 31% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=C(C=CC=C1)OC | C21H18N2O5S
